US08202858B2
1-[4-(Furan-2-carbonyl)-piperazin-1-yl]-3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propan-1-one
A solution of HBTU (1.90 mg, 0.005 mmol) in DMF (0.05 ml) was added to a solution of 3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionic acid from Example E45 (1.95 mg, 0.005 mmol) in DMF (0.05 ml) and DIEA (0.0022 ml). The mixture was stirred at room temperature for 30 min then a solution of 1-(2-furoyl)piperazine (0.90 mg, 0.005 mmol) in DMF (0.05 ml) was added. The mixture was stirred for 18 h at room temperature then sol-vents were removed in vacuo to yield the title compound. (ESI)+: [M+H]+=553.4

reactant | HBTU | 0.005 mmol, 1.90 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionic acid | CC1=C(C=CC(=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)CCC(=O)O | C22H22N4O3
reactant | 1-(2-furoyl)piperazine | 0.005 mmol, 0.90 mg | O1C(=CC=C1)C(=O)N1CCNCC1 | C9H12N2O2
solvent | DMF | 0.05 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.05 ml | CN(C)C=O | C3H7NO
solvent | DIEA | 0.0022 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.05 ml | CN(C)C=O | C3H7NO
product | 1-[4-(Furan-2-carbonyl)-piperazin-1-yl]-3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propan-1-one | O1C(=CC=C1)C(=O)N1CCN(CC1)C(CCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C31H32N6O4
